US06455566B1
1-(5-Chloro-2-methyl-phenyl)-3-(naphtho[2,1-d]thiazol-2-yl)-thiourea
Prepared using Method A from 5.0 g (27.2 mmol) of 5-chloro-2-methyl-phenyl isothiocyanate and 5.0 g (25 mmol) of 2-amino-naptho[2,1-d]thiazole to give 2.1 g of title compound as an off-white solid, (21% yield).

reactant | 5-chloro-2-methyl-phenyl isothiocyanate | 27.2 mmol, 5.0 g | ClC=1C=CC(=C(C1)N=C=S)C | C8H6ClNS
reactant | 2-amino-naptho[2,1-d]thiazole | 25 mmol, 5.0 g | NC=1SC2=C(N1)C=CC1=CC=CC=C12 | C11H8N2S
product | 1-(5-Chloro-2-methyl-phenyl)-3-(naphtho[2,1-d]thiazol-2-yl)-thiourea | 2.1 g, 21% yield | ClC=1C=CC(=C(C1)NC(=S)NC=1SC2=C(N1)C=CC1=CC=CC=C12)C | C19H14ClN3S2
